US07632840B2
4-(3-Chloro-2-fluoroanilino)-7-methoxyquinazoline-6-carbaldehyde was coupled with N-(2-cyanoethyl)glycine using an analogous method to that described for the equivalent step in Example 1 to give N-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)-N-(2-cyanoethyl)glycine; 1H NMR Spectrum: (DMSO-d6) 2.70 (t, 2H); 3.04 (t, 2H); 3.40 (s, 2H); 3.95 (m, 5H); 7.20 (s, 1H); 7.27 (t, 1H); 7.48 (t, 1H); 7.55 (t, 1H); 8.36 (s, 1H); 8.44 (s, 1H); 9.69 (brs, 1H); Mass Spectrum: (M+H)+ 444.

reactant | 4-(3-Chloro-2-fluoroanilino)-7-methoxyquinazoline-6-carbaldehyde | ClC=1C(=C(NC2=NC=NC3=CC(=C(C=C23)C=O)OC)C=CC1)F | C16H11ClFN3O2
reactant | N-(2-cyanoethyl)glycine | C(#N)CCNCC(=O)O | C5H8N2O2
product | N-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)-N-(2-cyanoethyl)glycine | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN(CC(=O)O)CCC#N)OC)F | C21H19ClFN5O3
